US07960395B2
g) 5-{[(1S)-1-(5-Fluoropyridin-2-yl)ethyl]thio}-7-{[(1R)-1-(hydroxymethyl)-3-methylbutyl]amino}[1,3]thiazolo[4,5-d]pyrimidin-2(3H)-one
The title compound was prepared from (2R)-2-[(5-{[(1S)-1-(5-fluoropyridin-2-yl)ethyl]thio}-2-methoxy[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol from the previous step using General method D, except that the reaction mixture was stirred at 50° C. for 3 h. After complete reaction the reaction mixture was diluted with Brine and extracted with DCM (three times). The combined organic extracts were dried over magnesium sulphate and concentrated in vacuo. The product was purified by flash chromatography (eluent DCM: methanol gradient). Further purification by preparative HPLC (column Chiralcel OJ, eluent: ethanol, flow: 8 mL/min) yielded 113 mg of the title compound.

reactant | (2R)-2-[(5-{[(1S)-1-(5-fluoropyridin-2-yl)ethyl]thio}-2-methoxy[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-methylpentan-1-ol | FC=1C=CC(=NC1)[C@H](C)SC=1N=C(C2=C(N1)N=C(S2)OC)N[C@@H](CO)CC(C)C | C19H24FN5O2S2
solvent | Brine | [Cl-].[Na+].O
product | 5-{[(1S)-1-(5-Fluoropyridin-2-yl)ethyl]thio}-7-{[(1R)-1-(hydroxymethyl)-3-methylbutyl]amino}[1,3]thiazolo[4,5-d]pyrimidin-2(3H)-one | 113 mg | FC=1C=CC(=NC1)[C@H](C)SC=1N=C(C2=C(N1)NC(S2)=O)N[C@H](CC(C)C)CO | C18H22FN5O2S2
